US05409926
6-nitro-2-propyl-quinazolin-4(1H)-one
To a suspension of 48.94 g (0.3 mol) of 3-nitro-5-amino-benzonitrile in 500 ml of CH2Cl2 was added 63 ml of Et3N, 3 g DMAP and lastly, dropwise, 45.5 g (0.45 mol) of butyryl chloride. A mild exothermic reaction ensued. The mixture was allowed to stir for 2 days (monitor TLC with 50% EtOAc/hexanes). The solution was washed with 1N HCl (2×100 ml), water (1×100 ml) sat. NaHCO3 (2×100 ml), brine (1×100 ml) and dried over MgSO4. The suspension was filtered and concentrated in vacuo. The residue was suspended in a mixture of 600 ml of MeOH and 200 ml of water in a three neck round bottom flask. To this was added gradually 140 ml (0.7 m) of 5N NaOH solution followed by the dropwise addition of 80 ml of 30% H2O2 (0.7 mol) solution (beware of exothermic reaction!). The mixture was refluxed over night, cooled to room temperature and filtered. The filtrate was acidified with 1N HCl cooled to 5° C. and filtered. The quinazolinone may be recrystallized form hot MeOH to give 38 g of pale brown free crystals. 54% yield. 1H-NMR-CDCl3 : 1.10 (t, 3H, J=7.8 Hz), 1.93 (m, 2H), 2.79 (t, 2H, J=7.3 Hz), 7.81 (d, 1H, J=8.9 Hz), 8.55 (dd, 1H, J=2.4, 8.8 Hz), 9.14 (d, 1H, J=2.4 Hz), 10.72 (bs, 1H).

reactant | 3-nitro-5-amino-benzonitrile | 0.3 mol, 48.94 g | [N+](=O)([O-])C=1C=C(C#N)C=C(C1)N | C7H5N3O2
reactant | Et3N | 63 ml | CCN(CC)CC | C6H15N
reactant | butyryl chloride | 0.45 mol, 45.5 g | C(CCC)(=O)Cl | C4H7ClO
reactant | H2O2 | 0.7 mol, 80 ml | OO | H2O2
solvent | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 3 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 6-nitro-2-propyl-quinazolin-4(1H)-one | 38 g, 54% yield | [N+](=O)([O-])C=1C=C2C(N=C(NC2=CC1)CCC)=O | C11H11N3O3
